US08791108B2
Ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(5-chloro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate
A mixture of (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (400 mg, 0.817 mmol), 5-chloro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine (prepared according to the procedure described in WO 2009/062285; 290 mg, 0.981 mmol) and 2N Na2CO3 (0.817 mL, 1.635 mmol) in DMF (8 mL) was degassed for 15 min. Tetrakis(triphenylphosphine)palladium(0) (66.1 mg, 0.057 mmol) was added and the degassing was continued for another 5 min. The mixture was then heated at 90° C. for 16 h. At this point LCMS indicated completion of reaction and presence of desired product. After cooling to room temperature, water was added (25 mL) and the mixture was extracted with ethyl acetate (2×100 mL), washed with brine (100 mL), dried (Na2SO4), filtered and concentrated. The crude was purified by biotage (5-70% EtOAc/hexane) to afford ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(5-chloro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (315 mg, 0.593 mmol, 72.6% yield) as a mixture of two atrope isomers which are not separable (approx 10-15% of minor atrope isomer present by LCMS and NMR). Mixture was used as is in the next step without further purification.

reactant | (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.817 mmol, 400 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C | C18H24IN3O5
reactant | 5-chloro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine | ClC1=C(C=CC=2OCCNC21)B2OC(C(O2)(C)C)(C)C | C14H19BClNO3
reactant | Na2CO3 | 1.635 mmol, 2N, 0.817 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.057 mmol, 66.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(5-chloro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C1=C(C3=C(OCCN3)C=C1)Cl)N=C(C2)C(=O)OCC)C | C26H31ClN4O6
